US09108983B2
Step A: Benzyl (3S)-3-(4-morpholinylcarbonyl)-3,4-dihydro-2(1H)-isoquinolinecarboxylate
To a solution of 5 g of (3S)-2-[(benzyloxy)carbonyl]-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid (16 mmol) in 160 mL of dichloromethane there are added 1.5 mL of morpholine (17.6 mmol), then 9 mL of N,N,N-triethylamine (64 mmol), 3.3 g of 1-ethyl-3-(3′-dimethylaminopropyl)-carbodiimide (EDC) (19.2 mmol) and 2.6 g of hydroxybenzotriazole (HOBt) (19.2 mmol). The reaction mixture is stirred at ambient temperature overnight; it is then poured into ammonium chloride solution and extracted with ethyl acetate. The organic phase is then dried over MgSO4, and then filtered and evaporated to dryness. The crude product thereby obtained is then purified by chromatography over silica gel using dichloromethane and methanol as eluants. The product is obtained in the form of a foam.

reactant | (3S)-2-[(benzyloxy)carbonyl]-1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid | 16 mmol, 5 g | C(C1=CC=CC=C1)OC(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)O | C18H17NO4
reactant | morpholine | 17.6 mmol, 1.5 mL | N1CCOCC1 | C4H9NO
reactant | N,N,N-triethylamine | 64 mmol, 9 mL | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)-carbodiimide | 19.2 mmol, 3.3 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | hydroxybenzotriazole | 19.2 mmol, 2.6 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
product | Benzyl (3S)-3-(4-morpholinylcarbonyl)-3,4-dihydro-2(1H)-isoquinolinecarboxylate | N1(CCOCC1)C(=O)[C@H]1N(CC2=CC=CC=C2C1)C(=O)OCC1=CC=CC=C1 | C22H24N2O4
